US06410534B1
Step D: N-[7-(Triisopropylsilyloxy)naphthalene-1-carbonyl]glycine lithium salt
To a solution of N-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]glycine methyl ester, as described above in Step C, (175 mg, 0.42 mmol) in 4:1 THF/water (5 mL) at ambient temperature was added lithium hydroxide monohydrate (18 mg, 0.44 mmol). After 30 min, the solution was adjusted to pH 7 with 1.0 N hydrochloric acid and concentrated in vacuo. The residue was concentrated from toluene in vacuo (3×10 mL) to give the titled product.

reactant | N-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]glycine methyl ester | COC(CNC(=O)C1=CC=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C)=O | C23H33NO4Si
reactant | lithium hydroxide monohydrate | 0.44 mmol, 18 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.0 N | Cl | ClH
solvent | THF water | 5 mL | C1CCOC1.O
product | N-[7-(Triisopropylsilyloxy)naphthalene-1-carbonyl]glycine lithium salt | [Li+].C(C)(C)[Si](OC1=CC=C2C=CC=C(C2=C1)C(=O)NCC(=O)[O-])(C(C)C)C(C)C | InChI=1S/C22H31NO4Si.Li/c1-14(2)28(15(3)4,16(5)6)27-18-11-10-17-8-7-9-19(20(17)12-18)22(26)23-13-21(24)25;/h7-12,14-16H,13H2,1-6H3,(H,23,26)(H,24,25);/q;+1/p-1
